US06984646B2
4-(4-Methoxybenzoyl)-6,7,8,9-tetrahydropyrido[1,2-a]benzimidazol-1(5H)-one
The compound is prepared as described in example 25 with 200 mg (0.74 mmol) of 1-(4-methoxyphenyl)-2-(4,5,6,7-tetrahydro-1H-benzimidazol-2-yl)ethanone (example LIII), 80 mg (1.48 mmol) of sodium methylate and 62 mg (0.74 mmol) methyl propiolate.

reactant | 1-(4-methoxyphenyl)-2-(4,5,6,7-tetrahydro-1H-benzimidazol-2-yl)ethanone | 0.74 mmol, 200 mg | COC1=CC=C(C=C1)C(CC1=NC2=C(N1)CCCC2)=O | C16H18N2O2
reactant | sodium methylate | 1.48 mmol, 80 mg | C[O-].[Na+]
reactant | methyl propiolate | 0.74 mmol, 62 mg | C(C#C)(=O)OC | C4H4O2
product | 4-(4-Methoxybenzoyl)-6,7,8,9-tetrahydropyrido[1,2-a]benzimidazol-1(5H)-one | COC1=CC=C(C(=O)C=2C=CC(N3C2NC2=C3CCCC2)=O)C=C1 | C19H18N2O3
